US08357693B2
To a suspension of tert-butyl 5-(6-acetoxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (1.150 g, 2.01 mmol) in MeOH (100 mL) was added 28% aq. NH4OH solution (0.7 mL). The mixture was stirred at RT for 20 h. The solid was collected via filtration and dried under vacuum to give tert-butyl 5-(6-hydroxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. (0.800 g, 1.51 mmol, 75%). HPLC retention time 6.57 mins.

reactant | tert-butyl 5-(6-acetoxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 2.01 mmol, 1.150 g | C(C)(=O)OC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)[N+](=O)[O-])NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C29H26N6O7
reactant | NH4OH | 0.7 mL | [NH4+].[OH-]
solvent | MeOH | 100 mL | CO | CH4O
product | tert-butyl 5-(6-hydroxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | OC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)[N+](=O)[O-])NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C27H24N6O6
